* Psi-HDL memristor OSDI validation (DC read)
V1 a 0 0.2
N1 a 0 memmod
.model memmod memristor_pinn(R_on=1e3 R_off=1e5 alpha=2 tau=1e-3 V_set=0.8 V_reset=-0.6)
.control
pre_osdi C:/ngspice_work/memristor_pinn.osdi
tran 1e-6 1e-3 uic
wrdata C:/ngspice_work/mem_dc_read_out.txt i(v1) v(a)
rusage all
quit
.endc
.end
